US07074817B2
{1-Benzyl-5-[4-(tert-butyl)phenyl]-1H-indol-3-yl}(oxo)acetic acid
{1-Benzyl-5-[4-(tert-butyl)phenyl]-1H-indol-3-yl}(oxo)acetic acid was prepared from ethyl {1-benzyl-5-[4-(tert-butyl)phenyl]-1H-indol-3-yl}(oxo)acetate (0.669 g, 1.52 mmol), potassium hydroxide (0.30 g, 5.3 mmol) in THF (15 mL) and water (15 mL) according to the procedure described in Step 4 of Example 5. Purification by crystallization from acetonitrile and drying at 90° C. furnished the title compound as a light yellow solid (0.391 g, 63%), mp: 210-211° C. (dec.). Mass spectrum (+APCI, [M+H]+) m/z 412; 1 HNMR (400 MHz, DMSO-d6): δ 13.8-14.2 (br s, 1H), 8.7 (s, 1H), 8.4 (d, 1H, J=1.7 Hz), 7.65 (d, 1H, J=8.5 Hz), 7.55-7.6 (m, 3H), 7.5 (dd, 2H, J=6.5 Hz and 1.8 Hz), 7.3-7.35 (m, 5H), 5.6 (s, 2H), and 1.3 ppm (s, 9H).

reactant | ethyl {1-benzyl-5-[4-(tert-butyl)phenyl]-1H-indol-3-yl}(oxo)acetate | 1.52 mmol, 0.669 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)C(C)(C)C)C(C(=O)OCC)=O | C29H29NO3
reactant | potassium hydroxide | 5.3 mmol, 0.30 g | [OH-].[K+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | {1-Benzyl-5-[4-(tert-butyl)phenyl]-1H-indol-3-yl}(oxo)acetic acid | 0.391 g, 63% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)C(C)(C)C)C(C(=O)O)=O | C27H25NO3
